US09353093B2
To the solution of 2-(3-aminophenyl)-1H-indole-1-carboxamide (50.2 mg, 0.2 mmol, 1 eq) in anhydrous THF (2 mL) was added m-tolyl isocyanate (25 μL, 1 eq) and the reaction solution was stirred at room temperature for one hour. It was then diluted with ethyl acetate, washed with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper solution was decanted, concentrated and the oily residue was treated with small amount of dichloromethane. The white solid appeared during this process was filtered to yield 2-[3-({[(3-methylphenyl)amino]carbonyl}amino)phenyl]-1H-indole-1-carboxamide in amount of 36 mg.

reactant | 2-(3-aminophenyl)-1H-indole-1-carboxamide | 0.2 mmol, 50.2 mg, 1 eq | NC=1C=C(C=CC1)C=1N(C2=CC=CC=C2C1)C(=O)N | C15H13N3O
reactant | m-tolyl isocyanate | 25 μL, 1 eq | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-({[(3-methylphenyl)amino]carbonyl}amino)phenyl]-1H-indole-1-carboxamide | CC=1C=C(C=CC1)NC(=O)NC=1C=C(C=CC1)C=1N(C2=CC=CC=C2C1)C(=O)N | C23H20N4O2
